US04221789
67.6 g (0.4 mol) of 1-(tetrahydro-2-oxo-3-furyl)-2-pyrrolidinone and 32 g (0.8 mol) of sodium hydroxide in 210 ml of water are heated for 2 hours under reflux, cooled and then acidified with hydrochloric acid to a pH value of 1. The reaction mixture is evaporated to dryness under reduced pressure and the residue taken up three times in benzene and evaporated in vacuo. The residue obtained is finally treated with a mixture of chloroform and ethanol (4:1 v/v) and the insoluble material filtered off. The filtrate is evaporated and the residue is recrystallized from ethanol. 22.7 g (yield: 30% of theory) of alpha-(2-hydroxyethyl)-2-oxo-1-pyrrolidineacetic acid are obtained. M.P.: 123°-124° C.

reactant | 1-(tetrahydro-2-oxo-3-furyl)-2-pyrrolidinone | 0.4 mol, 67.6 g | O=C1OCCC1N1C(CCC1)=O | C8H11NO3
reactant | sodium hydroxide | 0.8 mol, 32 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 210 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | alpha-(2-hydroxyethyl)-2-oxo-1-pyrrolidineacetic acid | 22.7 g, yield: 30% | OCCC(C(=O)O)N1C(CCC1)=O | C8H13NO4
